US06150373
A solution, cooled in ice, of 100 mg (0.27 mmol) of 3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one in 6 ml of dimethylformamide was treated with 11 mg (0.27 ml) of sodium hydride (60% w/w). After 30 minutes the mixture was treated with 0.04 ml (0.3 mmol) of benzyl bromide and then heated to 90° C. for 2 hours. The mixture was evaporated and 30 ml of dichloromethane and 30 ml of water were added to the residue. The phases were separated and the organic phase was washed with 30 ml of water, dried over magnesium sulfate, filtered and evaporated to give 100 mg (80%) of 1-benzyl-3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one as a yellow solid.

reactant | 3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 0.27 mmol, 100 mg | ClC1=C(C(=CC=C1)Cl)N1C(NC2=NC(=NC=C2C1)S(=O)(=O)C)=O | C13H10Cl2N4O3S
reactant | sodium hydride | 0.27 ml, 11 mg | [H-].[Na+]
reactant | benzyl bromide | 0.3 mmol, 0.04 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 1-benzyl-3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 100 mg, 80% | C(C1=CC=CC=C1)N1C(N(CC=2C1=NC(=NC2)S(=O)(=O)C)C2=C(C=CC=C2Cl)Cl)=O | C20H16Cl2N4O3S
